US08138187B2
2-Iodo-benzo[b]thiophene
Butyllithium 1.6 M in hexane (112.5 ml, 180 mmol) and abs. ether (70 ml) was initially introduced into a 500 ml three-necked flask under an argon atmosphere and the mixture was cooled to 0° C. in an ice bath. Benzothiophene (20.1 g, 150 mmol) then dissolved in abs. ether (40 ml) and the solution added dropwise in the course of 30 minutes, while cooling with ice, and the mixture subsequently stirred in an ice bath for 2.5 h. The reaction mixture stood in a refrigerator overnight. Iodine (75.0 g) and abs. ether (50 ml) were initially introduced into a 500 ml three-necked flask under an argon atmosphere and the solution of the lithium compound was added dropwise, while cooling with ice. The mixture was warmed slowly to room temperature, hydrolysed with water and washed with sodium thiosulfate solution and the organic phase was dried over sodium sulfate. The reaction solution was then concentrated i. vac. and the residue was purified by means of flash chromatography with cyclohexane. Yield: 24.1 g (62%) semi-solid, pale brown crystals

reactant | Butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 180 mmol, 112.5 ml | CCCCCC | C6H14
reactant | Benzothiophene | 150 mmol, 20.1 g | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | Iodine | 75.0 g | II | I2
reactant | lithium | [Li] | Li
solvent | water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 70 ml | CCOCC | C4H10O
product | 2-Iodo-benzo[b]thiophene | IC1=CC2=C(S1)C=CC=C2 | C8H5IS
